US07119221B2
LiOH.H2O (3.21 g, 76.4 mmol) and H2O (40 mL) were added to a solution of butyl 1-9-[1-(butoxycarbonyl)cyclopentyl]-5-oxononyl-1-cyclopentanecarboxylate (7.25 g, 15.0 mmol) in EtOH (120 mL) and the resulting mixture was stirred at reflux temperature for 25 h, allowed to cool to rt and concentrated in vacuo to a smaller volume. H2O (100 mL) was added and the resulting mixture was extracted with Et2O (25 mL), acidified with aqueous HCl (6 M, 15 mL) and extracted with Et2O (3×50 mL). The latter organic layers were combined, dried (Na2SO4, to avoid loss of material, a minimal amount of Na2SO4 was used, with the desiccant becoming a white, oily paste. The organic layer was decanted from the desiccant.) and evaporated in vacuo to give 1-[9-(1-carboxycyclopentyl)-5-oxononyl]-1-cyclopentanecarboxylic acid (5.46 g, 95% pure by 1H NMR, 94%, mp=99–103° C.) as a white solid. An analytical sample was obtained after recrystallization from iPr2O/heptane. mp=104–106° C. 1H NMR (CDCl3): δ=2.39 (t, J=6.9 Hz, 4H), 2.18–2.10 (m, 4H), 1.69–141 (m, 20H), 1.27–1.14 (m, 4H). 13C NMR (CDCl3): δ=211.1, 184.6 (2×), 53.9 (2×) 42.5 (2×), 39.0 (2×), 35.9 (4×), 25.7 (2×), 24.9 (4×), 24.0 (2×). Anal. calcd for C21H34O5: C, 68.82; H, 9.35, found: C, 68.78; H, 9.47.

reactant | LiOH.H2O | 76.4 mmol, 3.21 g | O[Li].O
reactant | H2O | 40 mL | O | H2O
reactant | butyl 1-9-[1-(butoxycarbonyl)cyclopentyl]-5-oxononyl-1-cyclopentanecarboxylate | 15.0 mmol, 7.25 g | C(CCC)OC(=O)C1(CCCC1)CCCCC(CCCCC1(CCCC1)C(=O)OCCCC)=O | C29H50O5
solvent | EtOH | 120 mL | CCO | C2H6O
product | 1-[9-(1-carboxycyclopentyl)-5-oxononyl]-1-cyclopentanecarboxylic acid | 5.46 g, 95% | C(=O)(O)C1(CCCC1)CCCCC(CCCCC1(CCCC1)C(=O)O)=O | C21H34O5
